US08217032B2
Dissolve 4-(2-azepan-1-yl-ethoxy)-benzoyl chloride (79.4 g, 249 mmol) and 2,6-dimethoxynaphthalene (37.8 g, 201 mmol) in dichloromethane (800 ml). Cool to −5° C. and add aluminum trichloride (134 g, 1 mol). Warm to room temperature and stir overnight. Add chilled water (1.5 L) and stir vigorously for 1 hour. Decant the mixture away from the residue and separate organic. Wash the aqueous layer with dichloromethane (500 mL). Combine with residue from the reaction vessel and wash with saturated aqueous sodium bicarbonate (1 L). Separate the organic after prolonged stirring (2 hours) and wash the aqueous layer with dichloromethane (300 mL). Combine the organic layers and add Darco (30 g), silica gel (30 g), and magnesium sulfate. Filter and concentrate in vacuo to give 72.4 g of [4-(2-azepan-1-yl-ethoxy)-phenyl]-(2-hydroxy-6-methoxy-naphthalen-1-yl)-methanone (73%).

reactant | 4-(2-azepan-1-yl-ethoxy)-benzoyl chloride | 249 mmol, 79.4 g | N1(CCCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1 | C15H20ClNO2
reactant | 2,6-dimethoxynaphthalene | 201 mmol, 37.8 g | COC1=CC2=CC=C(C=C2C=C1)OC | C12H12O2
reactant | aluminum trichloride | 1 mol, 134 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | water | 1.5 L | O | H2O
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | [4-(2-azepan-1-yl-ethoxy)-phenyl]-(2-hydroxy-6-methoxy-naphthalen-1-yl)-methanone | 72.4 g, 73% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)O | C26H29NO4
